US05665718
2.4 ml (13.8 mmol) of N-ethyldiisopropylamine and 0.67 ml (8 mmol) of allyl bromide were added to a solution of 685 mg (2 mmol) of (S)-1-(3-aminomethyl-1,2,4-oxadiazol-5-yl)-10,11,12,12a-tetrahydro-8H-imidazo[5,1-c]pyrrolo[1,2-a]thieno[3,2-e][1,4]diazepin-8-one in 20 ml of methylene chloride and the mixture was stirred at room temperature for 20 hours. The reaction solution was subsequently diluted with methylene chloride and washed three times with water. The organic phases were dried over magnesium sulfate, filtered and evaporated. The residue obtained was chromatographed (silica gel, methylene chloride/methanol/aqueous ammonia 200:10:1). There were obtained 693 mg (82%) of (S)-1-(5-diallylaminomethyl-1,2,4-oxadiazol-5-yl)-10,11,12,12a-tetrahydro-8H-imidazo[5,1-c]pyrrolo[1,2-a]thieno[3,2-e][1,4]diazepin-8-one as a colourless foam, Rf=0.32 (silica gel, methylene chloride/methanol/aqueous ammonia 200:10:1).

reactant | N-ethyldiisopropylamine | 13.8 mmol, 2.4 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | allyl bromide | 8 mmol, 0.67 ml | C(C=C)Br | C3H5Br
reactant | (S)-1-(3-aminomethyl-1,2,4-oxadiazol-5-yl)-10,11,12,12a-tetrahydro-8H-imidazo[5,1-c]pyrrolo[1,2-a]thieno[3,2-e][1,4]diazepin-8-one | 2 mmol, 685 mg | NCC1=NOC(=N1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CS3)=O)CCC1 | C15H14N6O2S
reactant | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | (S)-1-(5-diallylaminomethyl-1,2,4-oxadiazol-5-yl)-10,11,12,12a-tetrahydro-8H-imidazo[5,1-c]pyrrolo[1,2-a]thieno[3,2-e][1,4]diazepin-8-one | 693 mg, 82% | C(C=C)N(CC=C)CC1(N=CNO1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CS3)=O)CCC1 | C21H24N6O2S
